US04873255
5-[4-(7-Chloro-6-hydroxy-2-methyl-4-oxochroman-2-ylmethoxy)benzyl]thiazolidine-2,4-dione
Following a procedure similar to that described in Example 1, but using 780 mg of ethyl 3-[4-(6-acetoxy-7-chloro-2-methyl-4-oxochroman-2-ylmethoxy)phenyl]-2-chloropropionate (prepared as described in Preparation 37), 360 mg of thiourea, 3 ml of sulfolane, 10 ml of ethylene glycol monomethyl ether and 5 ml of 3N aqueous hydrochloric acid, 286 mg of the title compound were obtained as a greyish white powder, softening at 195°-206° C.

reactant | ethyl 3-[4-(6-acetoxy-7-chloro-2-methyl-4-oxochroman-2-ylmethoxy)phenyl]-2-chloropropionate | 780 mg | C(C)(=O)OC=1C=C2C(CC(OC2=CC1Cl)(C)COC1=CC=C(C=C1)CC(C(=O)OCC)Cl)=O | C24H24Cl2O7
reactant | thiourea | 360 mg | NC(=S)N | CH4N2S
reactant | sulfolane | 3 ml | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | hydrochloric acid | 3N, 5 ml | Cl | ClH
solvent | ethylene glycol monomethyl ether | 10 ml | COCCO | C3H8O2
product | 5-[4-(7-Chloro-6-hydroxy-2-methyl-4-oxochroman-2-ylmethoxy)benzyl]thiazolidine-2,4-dione | 286 mg | ClC1=C(C=C2C(CC(OC2=C1)(C)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)=O)O | C21H18ClNO6S
